US09056914B2
To a solution of 2.64 g of diethyl 4-(2-tert-butoxycarbonylamino-ethoxy)-pyridine-2,6-dicarboxylate (described on page 101 of WO 07085930) in 27 ml of dioxane was added 20.7 ml of 4N hydrochloric acid in dioxane. The mixture was stirred for about 20 hours at room temperature and then concentrated under reduced pressure. The evaporation residue was taken up in about 70 ml of dioxane, and then concentrated again under reduced pressure. The operation was repeated 3×. The mixture was taken up in 50 ml of tert-butyl methyl ether and the suspension obtained was filtered through a sinter of porosity 4. The cake was washed with tert-butyl methyl ether, and dried in a desiccator under reduced pressure at room temperature. 2 g of diethyl 4-(2-amino-ethoxy)-pyridine-2,6-dicarboxylate monohydrochloride were obtained. 1H NMR (400 MHz, DMSO-ds): 1.35 (t, J=7.2 Hz, 6H); 3.26 (m, 2H); 4.39 (q, J=7.2 Hz, 4H); 4.45 (m, 2H); 7.77 (s, 2H); 8.16 (broad m, 3H). LC/MS (C): tr=2.39 min; [M+H]+: m/z 283.

reactant | diethyl 4-(2-tert-butoxycarbonylamino-ethoxy)-pyridine-2,6-dicarboxylate | 2.64 g | C(C)(C)(C)OC(=O)NCCOC1=CC(=NC(=C1)C(=O)OCC)C(=O)OCC | C18H26N2O7
reactant | hydrochloric acid | 4N, 20.7 ml | Cl | ClH
solvent | dioxane | 27 ml | O1CCOCC1 | C4H8O2
product | diethyl 4-(2-amino-ethoxy)-pyridine-2,6-dicarboxylate monohydrochloride | 2 g | Cl.NCCOC1=CC(=NC(=C1)C(=O)OCC)C(=O)OCC | InChI=1S/C13H18N2O5.ClH/c1-3-18-12(16)10-7-9(20-6-5-14)8-11(15-10)13(17)19-4-2;/h7-8H,3-6,14H2,1-2H3;1H
